US06071925
(RS)-8-(5-Chloro-indan-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p.>250° C. and MS: m/e=382.2 (M+H+) was prepared in accordance with the general method of example 34 from 5-chloro-2,3-dihydro-1H-inden-1-one and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 5-chloro-2,3-dihydro-1H-inden-1-one | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(5-Chloro-indan-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC=1C=C2CCC(C2=CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C22H24ClN3O.ClH/c23-17-7-8-19-16(14-17)6-9-20(19)25-12-10-22(11-13-25)21(27)24-15-26(22)18-4-2-1-3-5-18;/h1-5,7-8,14,20H,6,9-13,15H2,(H,24,27);1H
